US07714010B2
b) 2-(2-Benzo[1,3]dioxol-5-yl-ethyl)-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
A solution of N-(6-amino-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-3-benzo[1,3]dioxol-5-yl-propionamide (60 mg) in acetic acid (1.6 ml) is heated in a microwave apparatus at 150° C. for 15 min. After dilution with water the mixture is extracted with EtOAc (3×15 ml). The organic layer is washed with brine, dried over MgSO4 and concentrated in vacuo to give the desired compound (57 mg).

reactant | N-(6-amino-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-3-benzo[1,3]dioxol-5-yl-propionamide | 60 mg | NC1=C(C=C2C(C(N(C2=C1)C)=O)(C)C)NC(CCC1=CC2=C(OCO2)C=C1)=O | C21H23N3O4
solvent | acetic acid | 1.6 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Benzo[1,3]dioxol-5-yl-ethyl)-5,7,7-trimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 57 mg | O1COC2=C1C=CC(=C2)CCC2=NC=1C(=CC=3C(C(N(C3C1)C)=O)(C)C)N2 | C21H21N3O3
